US03995056
14 ml of a sulfochromic mixture titrating 26.5 g of chromic anhydride per 100 ml were added over 25 minutes at 10° C to a solution of 3.47 g of 4-(3'-p-fluorobenzoyl-2'-methyl-phenyl)-butanol in 35 ml of acetone and after returning the mixture to room temperature, the mixture was stirred overnight. The mixture was poured into ice water and vacuum filtered, was washed with water until the wash water was neutral and the precipitate recovered was dried over phosphoric acid and crystallized from cycloxane to obtain 3.02 g of 4-(3'-p-fluorobenzoyl-2'-methyl-phenyl)-butyric acid in the form of colorless crystals melting at 94° C.

reactant | 4-(3'-p-fluorobenzoyl-2'-methyl-phenyl)-butanol | 3.47 g | FC1=CC=C(C(=O)C=2C(=C(C=CC2)CCCCO)C)C=C1 | C18H19FO2
reactant | acetone | 35 ml | CC(=O)C | C3H6O
product | 4-(3'-p-fluorobenzoyl-2'-methyl-phenyl)-butyric acid | 3.02 g | FC1=CC=C(C(=O)C=2C(=C(C=CC2)CCCC(=O)O)C)C=C1 | C18H17FO3
